US08106064B2
3-(3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-phenyl)-acrylonitrile (127):
To a stirred solution of 2-fluoro-6-(p-methoxybenzylamino)-4-pyridine-methanol (186 mg, 0.712 mmol) in chloroform (7 ml) at 0° C. (ice bath), was added triethylamine (150 μl, 1.07 mmol) followed by methanesulfonyl chloride (64 μl, 0.85 mmol). After stirring for 1.5 hr., the mixture was diluted with dichloromethane, washed with aqueous saturated sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was further dried in high vacuo and mixed with 3-[3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-phenyl]-acrylonitrile (309 mg, 0.712 mmol), anhydrous powdered potassium carbonate (110 mg, 0.8 mmol), lithium iodide (107 mg, 0.8 mmol). Anhydrous DMF (5 ml) was then added into the mixture and stirred for overnight at room temperature. The mixture was evaporated in vacuo. The residue was dissolved in methanol-dichloromethane (1:9), filtered through celite pad, and evaporated in vacuo to give a pale yellow foam. The crude product was purified by silica gel column chromatography (eluent, EA:hexanes (1:2); The fraction of Rf=0.14 was collected.) to afford 182 mg (46%) of a pale yellow syrup.

reactant | 2-fluoro-6-(p-methoxybenzylamino)-4-pyridine-methanol | 0.712 mmol, 186 mg | FC1=NC(=CC(=C1)CO)NCC1=CC=C(C=C1)OC | C14H15FN2O2
reactant | triethylamine | 1.07 mmol, 150 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.85 mmol, 64 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-phenyl]-acrylonitrile | 0.712 mmol, 309 mg | C(C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=CC1)C=CC#N | C17H15N3O3
reactant | potassium carbonate | 0.8 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 0.8 mmol, 107 mg | [I-].[Li+]
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-phenyl)-acrylonitrile | 182 mg, 46% | FC1=NC(=CC(=C1)CN1C(NC(C(=C1C(=O)C=1C=C(C=CC1)C=CC#N)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C31H28FN5O4
